US04209445
1 mol of piperonal is reacted with 1.1 mols of crotonic acid piperidide in the presence of 0.09 mol of a hydroxide, indicated in Table 2 below, under the reaction conditions described in Example 1 to give piperonylidenecrotonic acid piperidide. The yields obtained are likewise indicated in Table 2.

reactant | piperonal | 1 mol | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | crotonic acid piperidide | 1.1 mols | C(\C=C\C)(=O)N1CCCCC1 | C9H15NO
reactant | hydroxide | 0.09 mol | [OH-]
product | piperonylidenecrotonic acid piperidide | C(C1=CC=2OCOC2C=C1)=C/C=C/C(=O)N1CCCCC1 | C17H19NO3
